US06057364
To an aqueous solution (400 ml) containing potassium hydroxide (13.0 g; 0.20 mol) was added 34.76 g (0.22 mol) of potassium permanganate and the solution was warmed on a steam bath (about 50° C). To this solution was added portion-wise 39.8 g (0.20 mol) of 3-fluoroadamantane-l-carboxylic acid. After the addition was complete, the reaction mixture was allowed to warm to a gentle reflux and stirred until all the potassium permanganate was consumed (about 1.5 hours). The reaction mixture was then cooled and acidified with 6N HCl. Sodium bisulfite was added to remove MnO2 and the white suspension was filtered and washed with water to yield recovered starting material (19.0 g). The aqueous filtrate was saturated with NaCl and extracted with 95:5 EtOAc:MeOH (4×350 ml). The organic extracts were dried over magnesium sulfate, filtered and concentrated in vacuo to afford 18.3 g (43%; 81% based on recovered 3-fluoroadamantan-1-carboxylic acid) of 3-fluoro-5-hydroxyadamantane-1-carboxylic acid. To an aqueous solution (250 ml) containing tetrabutylammonium hydrogen sulfate (42g, 0.124 mol) was added portion-wise sodium bicarbonate (41.0 g, 0.496 mol). This solution was allowed to stir for 20 minutes at which point 26.5 g (0.124 mol) of 3-fluoro-5-hydroxyadamantane-1-carboxylic acid was added portion-wise. The reaction mixture was allowed to stir for 30 minutes, was concentrated in vacuo to afford a viscous oil which was dissolved in acetone (300 ml) and mixed with methyl iodide (40 ml) and allowed to stir for 48 hours. The crude reaction mixture was filtered, concentrated in vacuo and triturated with Et2O to remove tetrabutylammonium iodide and the crude filtrate was concentrated in vacuo to afford 31 g of crude ester which was chromatographed on 800 g of silica gel using 2:1 hexane:ethyl acetate to afford 23.5 g (83%) of the title compound: mp 51.5-52.6°C.; 1H NMR (CDCl3) 1.60-1.70 (4H, m), 1.75-1.82 (4H, m), 1.88-1.92 (3H, M), 1.94-1.98 (2H, m), 2.42-2.50 (1H, m) 3.67 (3H, s). 13C NMR (CDCl3) 30.52 (10.33), 36.36, 40.35, 42.60 (20.38), 45.16, 45.42 (10.18), 49.44 (17.36), 51.94, 70.62 (12.53), 92.71 (186.33), 175.04; Anal. Calc'd for C12H17O3F: C, 63.14; H, 7.51; N, F, 8.32; Found: C, 63.25; H, 7.38; F, 8.52.

reactant | potassium hydroxide | 0.20 mol, 13.0 g | [OH-].[K+]
reactant | potassium permanganate | 0.22 mol, 34.76 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 3-fluoroadamantane-l-carboxylic acid | 0.20 mol, 39.8 g | FC12CC3(CC(CC(C1)C3)C2)C(=O)O | C11H15FO2
product | 3-fluoro-5-hydroxyadamantane-1-carboxylic acid | 18.3 g | FC12CC3(CC(CC(C1)(C3)O)C2)C(=O)O | C11H15FO3
